US07094790B2
7-Bromo-3-hydroxy-4H-benzo[1,4]thiazine-2-carboxylic acid ethyl ester (2.47 g, 7.8 mmol) was dissolved in 50 mL of acetic acid and heated to 110° C. under nitrogen. Zinc powder (7.5 g, 114.7 mmol) was added in portions at room temperature over 80 minutes. The mixture was stirred at 110° C. for additional 2 hours and cooled to room temperature. Zinc was filtered off and rinsed with 20 mL EtOAc. The combined filtrate was concentrated to yellow crystals and purified by column chromatography (silica gel, 20:90 EtOAc:hexane) to give (6-bromo-benzothiazol-2-yl)-acetic acid ethyl ester.

reactant | 7-Bromo-3-hydroxy-4H-benzo[1,4]thiazine-2-carboxylic acid ethyl ester | 7.8 mmol, 2.47 g | C(C)OC(=O)C=1SC2=C(NC1O)C=CC(=C2)Br | C11H10BrNO3S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 114.7 mmol, 7.5 g | [Zn] | Zn
product | (6-bromo-benzothiazol-2-yl)-acetic acid ethyl ester | C(C)OC(CC=1SC2=C(N1)C=CC(=C2)Br)=O | C11H10BrNO2S
